US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-benzyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared analogously to Example 1 by reacting 2-benzylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene with 1-(7,8-dimethoxy-1,3,4,5-tetra hydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane. IR spectrum (methylene chloride): 1645 cm-1 (C=O).

reactant | 2-benzylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)NC1CC2=CC(=C(C=C2CC1)OC)OC | C19H23NO2
reactant | 1-(7,8-dimethoxy-1,3,4,5-tetra hydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-benzyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)CC2=CC=CC=C2)=O)C=C1OC | C34H42N2O5
